data/polar.json
{"reaction_name": "General nucleophilic 1,2-addition to a neutral carbonyl", "rsmi": "[Cl:3][C:24]1=[C:26]([Cl:19])[C:6](=[O:13])[C:5](=[O:12])[C:27]([Cl:20])=[C:25]1[Cl:4].[c:1]1([S:16](=[O:21])(=[O:22])[CH-:28][c:9]2[cH:7][cH:17][cH:23][cH:18][cH:8]2)[cH:10][cH:14][cH:2][cH:15][cH:11]1>>[c:1]1([S:16](=[O:21])(=[O:22])[CH:28]([C:5]2([O-:12])[C:6](=[O:13])[C:26]([Cl:19])=[C:24]([Cl:3])[C:25]([Cl:4])=[C:27]2[Cl:20])[c:9]2[cH:7][cH:17][cH:23][cH:18][cH:8]2)[cH:10][cH:14][cH:2][cH:15][cH:11]1", "epd": [["LP-/Sigma+", [28], [28, 5]], ["Pi-/LP+", [5, 12], [12]]]}
{"reaction_name": "π-Nucleophile capture of a preformed localized carbocation", "rsmi": "[N:1]1=[C:2]([CH3:3])[O:10][CH2:8][CH2:9]1.[cH:4]1[c:11]([CH+:23][c:12]2[cH:5][c:15]([F:19])[cH:22][c:16]([F:20])[cH:6]2)[cH:7][c:13]([F:17])[cH:21][c:14]1[F:18]>>[N:1]1([CH:23]([c:11]2[cH:4][c:14]([F:18])[cH:21][c:13]([F:17])[cH:7]2)[c:12]2[cH:5][c:15]([F:19])[cH:22][c:16]([F:20])[cH:6]2)[C:2]([CH3:3])=[O+:10][CH2:8][CH2:9]1", "epd": [["LP-/Pi+", [10], [2, 10]], ["Pi-/Sigma+", [1, 2], [1, 23]]]}
{"reaction_name": "Dakin oxidation", "rsmi": "[O:8]([H:14])[O:13][H:15].[OH:1][c:6]1[cH:9][cH:2][c:11]([CH:5]=[O:4])[cH:3][cH:10]1.[OH:7][H:12]>>[O:4]=[CH:5][OH:7].[OH:1][c:6]1[cH:9][cH:2][c:11]([O:8][H:12])[cH:3][cH:10]1.[O:13]([H:14])[H:15]", "epd": [["Sigma-/Sigma+", [5, 11], [5, 7]], ["Sigma-/Sigma+", [8, 14], [8, 11]], ["Sigma-/Sigma+", [7, 12], [8, 12]], ["Sigma-/Sigma+", [8, 13], [13, 14]]]}
{"reaction_name": "Retro-Michael reaction", "rsmi": "[CH3:1][C:2](=[O:3])[CH:4]([H:10])[CH2:5][CH2:6][C:7](=[O:8])[CH3:9]>>[CH3:1][C:2](=[O:3])[CH:4]=[CH2:5].[CH2-:6][C:7](=[O:8])[CH3:9].[H+:10]", "epd": [["Sigma-/LP+", [5, 6], [6]], ["Sigma-/Pi+", [4, 10], [4, 5]]]}
{"reaction_name": "Wittig rearrangement", "rsmi": "[cH:1]1[c:3][c:9]([CH2:6][O:5][CH-:2][CH3:8])[cH:10][cH:7][cH:4]1>>[cH:1]1[c:3][c:9]([CH2:6][CH-:2][O:5][CH3:8])[cH:10][cH:7][cH:4]1", "epd": [["Sigma-/Sigma+", [2, 8], [2, 6]], ["Sigma-/Sigma+", [5, 6], [5, 8]]]}
{"reaction_name": "Benzylic solvolysis", "rsmi": "[OH:4][H:10].[c:1]1([CH2:9][Cl:5])[cH:7][cH:2][cH:6][cH:3][cH:8]1>>[Cl:5][H:10].[c:1]1([CH2:9][OH:4])[cH:7][cH:2][cH:6][cH:3][cH:8]1", "epd": [["Sigma-/LP+", [5, 9], [5]], ["LP-/Sigma+", [4], [4, 9]], ["LP-/Sigma+", [5], [5, 10]], ["Sigma-/LP+", [4, 10], [4]]]}
{"reaction_name": "Michael addition", "rsmi": "[C:2](#[N:11])[C:21]([C:3]#[N:12])=[CH:4][c:26]1[cH:7][cH:16][cH:27][cH:17][cH:8]1.[CH:1]([C:13](=[O:14])[c:18]1[cH:5][cH:23][c:15]([N:22]([CH3:19])[CH3:20])[cH:24][cH:6]1)=[S:25]([CH3:9])[CH3:10]>>[CH:1]([CH:4]([C:21](=[C:2]=[N-:11])[C:3]#[N:12])[c:26]1[cH:7][cH:16][cH:27][cH:17][cH:8]1)([C:13](=[O:14])[c:18]1[cH:5][cH:23][c:15]([N:22]([CH3:19])[CH3:20])[cH:24][cH:6]1)[S+:25]([CH3:9])[CH3:10]", "epd": [["Pi-/Sigma+", [1, 25], [1, 4]], ["Pi-/Pi+", [4, 21], [21, 2]], ["Pi-/LP+", [2, 11], [11]]]}
{"reaction_name": "σ-Adduct formation on a neutral electron-poor arene / heteroarene", "rsmi": "[O:2]=[S:31](=[O:3])([c:17]1[cH:5][cH:12][c:21]([CH3:32])[cH:13][cH:6]1)[n:24]1[cH:16][c:19]([N+:18](=[O:7])[O-:10])[c:20]2[cH:11][cH:26][c:14]([N+:30](=[O:27])[O-:29])[cH:4][c:25]21.[S:1]([c:8]1[cH:33][cH:22][cH:15][cH:23][cH:34]1)([O-:9])=[O:28]>>[S+:1]([c:8]1[cH:33][cH:22][cH:15][cH:23][cH:34]1)([O-:9])([CH:16]1[C:19](=[N+:18]([O-:7])[O-:10])[c:20]2[cH:11][cH:26][c:14]([N+:30](=[O:27])[O-:29])[cH:4][c:25]2[N:24]1[S:31](=[O:2])(=[O:3])[c:17]1[cH:5][cH:12][c:21]([CH3:32])[cH:13][cH:6]1)=[O:28]", "epd": [["LP-/Sigma+", [1], [1, 16]], ["Pi-/Pi+", [16, 19], [19, 18]], ["Pi-/LP+", [18, 7], [7]]]}
{"reaction_name": "Conjugate addition to an iminium-activated alkene", "rsmi": "[cH:1]1[cH:2][cH:14][cH:6][c:7]2[c:4]1[N+:19]([CH3:10])=[CH:13][C:11]2=[CH:9][c:18]1[cH:16][cH:21][cH:27][cH:22][cH:17]1.[cH:3]1[c:23]2[cH:20][cH:28][c:25]([S-:8])[cH:15][c:26]2[cH:12][cH:5][cH:24]1>>[cH:1]1[cH:2][cH:14][cH:6][c:7]2[c:4]1[n:19]([CH3:10])[cH:13][c:11]2[CH:9]([S:8][c:25]1[cH:15][c:26]2[cH:12][cH:5][cH:24][cH:3][c:23]2[cH:20][cH:28]1)[c:18]1[cH:16][cH:21][cH:27][cH:22][cH:17]1", "epd": [["LP-/Sigma+", [8], [8, 9]], ["Pi-/Pi+", [9, 11], [11, 13]], ["Pi-/LP+", [13, 19], [19]]]}
{"reaction_name": "Cope (amine-oxide) elimination", "rsmi": "[C:1]([CH3:2])([CH3:3])([CH2:8][N+:6]([CH3:4])([CH3:5])[O-:7])[H:9]>>[C:1]([CH3:2])([CH3:3])=[CH2:8].[CH3:4][N:6]([CH3:5])[O:7][H:9]", "epd": [["LP-/Sigma+", [7], [7, 9]], ["Sigma-/Pi+", [1, 9], [1, 8]], ["Sigma-/LP+", [6, 8], [6]]]}
{"reaction_name": "Michael addition", "rsmi": "[C:1](#[N:14])[C:22]([C:2]#[N:15])=[CH:3][c:23]1[cH:9][cH:20][cH:24][cH:21][cH:10]1.[C:4]1(=[CH2:11])[N:18]([CH3:5])[c:17]2[cH:7][cH:12][cH:13][cH:8][c:16]2[N:19]1[CH3:6]>>[C:1](=[N-:14])=[C:22]([C:2]#[N:15])[CH:3]([CH2:11][c:4]1[n+:18]([CH3:5])[c:17]2[cH:7][cH:12][cH:13][cH:8][c:16]2[n:19]1[CH3:6])[c:23]1[cH:9][cH:20][cH:24][cH:21][cH:10]1", "epd": [["LP-/Pi+", [18], [4, 18]], ["Pi-/Sigma+", [11, 4], [11, 3]], ["Pi-/Pi+", [3, 22], [22, 1]], ["Pi-/LP+", [1, 14], [14]]]}
